US04629493
Dimethylamine 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionate (Compound No. 77)
In 30 ml. of 10% aqueous solution of dimethylamine, 3.4 g. (0.01 mole) of 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionic acid was added. After a dissolution, excess of dimethylamine and water were removed by evaporating them by a rotary evaporator and the residue was dried in vacuum to obtain 3.5 g. (yield: 91%) of a pale yellow object product having a melting point of 63° to 67° C.

reactant | dimethylamine | CNC | C2H7N
reactant | 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionic acid | 0.01 mole | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1 | C17H13ClN2O4
product | Dimethylamine 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionate | yield: 91% | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)O)C)C=C1.CNC | InChI=1S/C17H13ClN2O4.C2H7N/c1-10(17(21)22)23-12-3-5-13(6-4-12)24-16-9-19-15-8-11(18)2-7-14(15)20-16;1-3-2/h2-10H,1H3,(H,21,22);3H,1-2H3
